US06894061B2
1-(2′,4′-Difluoro-1,1′-biphenyl-2-yl)ethanone
2,4-Difluorophenylboronic acid (9.47 g, 60 mmol), tetrabutylammonium bromide (16.1 g, 50 mmol), and potassium carbonate (20.7 g, 150 mmol) were added to a flask followed by water (50 mL). The contents were mixed until most of the dissolvable solids were in solution. To the remaining slurry was added 2′-bromoacetophenone (9.95 g, 50 mmol) and palladium acetate (1.12 g, 5 mmol). The stirred contents were heated to 70° C. under a nitrogen atmosphere for 12 hours. Thin layer chromatography analysis indicated the formation of a single product. The reaction was allowed to cool to room temperature. Ethyl acetate (500 mL) was added and the organic phase was extracted with water (3×100 mL). The combined aqueous phase was extracted once with additional ethyl acetate and the organic phases were combined, dried over anhydrous sodium sulfate, filtered, and concentrated to provide a crude oil. The product was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 5%-20% methyl tert-butyl ether in hexane, to afford the title compound (5.7 g, 49%) as a yellow oil;

reactant | 2,4-Difluorophenylboronic acid | 60 mmol, 9.47 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mL | O | H2O
reactant | 2′-bromoacetophenone | 50 mmol, 9.95 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
catalyst | tetrabutylammonium bromide | 50 mmol, 16.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 5 mmol, 1.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2′,4′-Difluoro-1,1′-biphenyl-2-yl)ethanone | 5.7 g, 49% | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)C(C)=O | C14H10F2O
